US05155108
Production of (+)-6-[(2-(S)-methyl-3-sulfamoylpropyl)thio]imidazo[1,2-b]pyridazine
To a solution of 0.78 g of 2-(S)-methyl-3-chloro-1-propanesulfonamide in 20 ml of methanol was added 20 ml of 2N potassium hydrosulfide-ethanol solution, followed by refluxing at 70° C. for an hour in a stream of nitrogen. Further, to the mixture were added 1.0 g of 28% sodium methoxide-methanol solution and 0.73 g of 6-chloroimidazo[1,2-b]pyridazine, followed by refluxing for 3 hours. The reaction mixture was concentrated under reduced pressure. The residue to which 10 ml of water were added was adjusted to pH 6.0 with 1N-hydrochloric acid and then extracted with tetrahydrofuran-ethyl acetate (1:1). The extract was dried over anhydrous magnesium sulfate and distilled to remove the solvent under reduced pressure. The residue was subjected to a silica gel column chromatography, eluting with chloroform-methanol (10:1). The corresponding fractions were concentrated under reduced pressure to obtain 0.29 g of the title compound. This product was dissolved in 2 ml of hydrochloric acid-methanol, and the resultant was concentrated under reduced pressure. The residue was recrystallized from a mixture of methanol-ethyl ether to obtain 0.2 g of hydrochloride of the title compound.

reactant | 2-(S)-methyl-3-chloro-1-propanesulfonamide | 0.78 g | C[C@@H](CS(=O)(=O)N)CCl | C4H10ClNO2S
reactant | potassium hydrosulfide ethanol | 2N, 20 ml | [SH-].[K+].C(C)O
reactant | sodium methoxide methanol | 1.0 g | C[O-].[Na+].CO
reactant | 6-chloroimidazo[1,2-b]pyridazine | 0.73 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
solvent | methanol | 20 ml | CO | CH4O
product | (+)-6-[(2-(S)-methyl-3-sulfamoylpropyl)thio]imidazo[1,2-b]pyridazine | 0.29 g | C[C@@H](CSC=1C=CC=2N(N1)C=CN2)CS(N)(=O)=O | C10H14N4O2S2
